US05134142
A mixture of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylic acid (6.4 g) and thionyl chloride (30 ml) in tetrahydrofuran (60 ml) was refluxed for 1 hour and concentrated under reduced pressure, giving 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonyl chloride.

reactant | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxylic acid | 6.4 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C17H13FN2O4S
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonyl chloride | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)Cl | C17H12ClFN2O3S
